Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Bactrim
 
Attending: ___.
 
Chief Complaint:
umbilical discharge x 1 month
 
Major Surgical or Invasive Procedure:
Excision of umbilical cyst and primary repair of small umbilical 
hernia

 
History of Present Illness:
This patient is a ___ year old female who complains of
umbilical discharge x 1 month. one loose BM today but has
been otherwise normal BM's. no n/v. no fevers. Has taken
course of amox and clinda without improvement
 
Past Medical History:
pAF, vestibular neuralgia 
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
PHYSICAL EXAMINATION: ___
 
Temp: 97.8 HR: 81 BP: 127/78 Resp: 16 O(2)Sat: 98 Normal
 
Constitutional: Comfortable
HEENT: Normocephalic, atraumatic
Chest: Clear to auscultation
Cardiovascular: Regular Rate and Rhythm
Abdominal: Soft, Nontender, Nondistended, umbilicus with
0.5cm granulation tissue at base and purulent malodorous
discharge expressed with palpation of superior aspect
GU/Flank: No costovertebral angle tenderness
Extr/Back: No cyanosis, clubbing or edema
Skin: mild erythema extending inferiorly from umbilicus
Neuro: Speech fluent
Psych: Normal mentation

Physical examination upon discharge:  ___:

General:  NAD

CV:  ns1, s2, -s3, -s4
LUNGS:  clear
ABDOMEN:  soft, ___ tenderness, umbilical wound 
lightly packed with dry dressing
EXT:  no pedal edema bil, no calf tenderness bil
NEURO:  alert and oriented x 3, speech clear
 

 
Pertinent Results:
___ 01:21PM BLOOD WBC-6.6 RBC-4.06 Hgb-12.4 Hct-36.8 MCV-91 
MCH-30.5 MCHC-33.7 RDW-12.7 RDWSD-41.6 Plt ___
___ 01:21PM BLOOD Neuts-66.4 ___ Monos-8.4 Eos-1.4 
Baso-0.6 Im ___ AbsNeut-4.41 AbsLymp-1.52 AbsMono-0.56 
AbsEos-0.09 AbsBaso-0.04
___ 01:21PM BLOOD ___ PTT-26.6 ___
___ 01:21PM BLOOD Glucose-91 UreaN-13 Creat-0.6 Na-139 
K-3.7 Cl-104 HCO3-22 AnGap-17
___ 01:21PM BLOOD ALT-28 AST-21 AlkPhos-71 TotBili-0.5
___ 01:21PM BLOOD Albumin-4.2

___:  cat scan of abdomen and pelvis:

1. 3.4 cm abscess at umbilicus without deeper extension into the 
peritoneal cavity. 
2. Compression deformity of the superior endplate of L1 
vertebral body with moderate loss of height of unknown 
chronicity, but likely old, with minimal 2mm retro-pulsion.  
Correlate with focal site of tenderness. 

 
Brief Hospital Course:
___ year old female admitted to the hospital with umbilical 
drainage x 1 month.  The patient had been seen at an outside 
clinic and was given a course of antibiotics, augmentin and 
clindamycin, without success. Her white blood cell count was 
normal.  Upon admission, the patient was made NPO, given 
intravenous fluids, and underwent imaging.  Cat scan imaging of 
the abdomen showed a 3.4 cm abscess at the umbilicus without 
deeper extension into the peritoneal cavity. Based on these 
findings, the patient was taken to the operating room where she 
underwent an excision of an infected umbilical cyst and 
umbilical hernia repair. The operative course was stable with 
minimal blood loss.  The patient was extubated after the 
procedure and monitored in the recovery room.

Her post-operative course was stable.  The patient's pain was 
controlled with oral analgesia.  She resumed a regular diet and 
was voiding without difficulty.  Her surgical site was packed 
lightly with gauze.  The patient was discharged under the 
accompaniment of  her brother on POD #1 in stable condition. At 
the time of discharge, dressing changes and post-operative 
instructions were reviewed. A follow-up appointment was made in 
the acute care clinic.   

  
 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Acetaminophen 1000 mg PO Q8H pain 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
umbilical cyst and small umbilical hernia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to ___ for an 
cyst of your umbilicus which was drained and removed. In 
addition, you had a small hernia at your umbilicus, which was 
repaired. You are recovering well and are ready to be discharged 
home. 

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.
Avoid driving or operating heavy machinery while taking pain 
medications.

 
Followup Instructions:
___